* Z:\mnt\design.r\spice\examples\1995.asc
XU1 N002 NC_01 NC_02 -V 0 OUT +V NC_03 NC_04 N001 LT1995
V1 +V 0 +15
V2 -V 0 -15
V3 N001 N002 PULSE(-1 1 0 1n 1n .5u 1u)
.tran 3u
.lib LTC7.lib
.backanno
.end
